US08541596B2
N,N-Bis((5-chlorobenzo[b]thiophen-3-yl)methyl)-1H-benzo[d]imidazol-5-amine
The compound was synthesized starting from benzimidazol-5-amine (133 mg; 1 mmol; 1 eq.), (5-chlorobenzo[b]thiophen-3-yl)methylbromide (576 mg; 2.2 mmol; 2.2 eq.) and K2CO3 (304 mg; 2.2 mmol; 2.2 eq.) according to method 5; Yield: 0.187 g (37.9%); MS m/z: 494.4/496.5 [M+H]+; 1H-NMR (500 MHz, DMSO d6): δ 4.84 (s, 4H); 6.90-6.92 (m, 2H); 7.37-7.39 (m, 3H); 7.51 (s, 2H); 7.88 (d, 2H); 7.94-7.96 (m, 2H); 7.98 (s, 1H); 12.00 (br s, 1H); HPLC (METHOD [A]): rt 19.77 min (100%)

reactant | benzimidazol-5-amine | 1 mmol, 133 mg, 1 eq. | N1=CNC2=C1C=CC(=C2)N | C7H7N3
reactant | (5-chlorobenzo[b]thiophen-3-yl)methylbromide | 2.2 mmol, 576 mg, 2.2 eq. | ClC1=CC2=C(SC=C2CBr)C=C1 | C9H6BrClS
reactant | K2CO3 | 2.2 mmol, 304 mg, 2.2 eq. | C(=O)([O-])[O-].[K+].[K+]
product | N,N-Bis((5-chlorobenzo[b]thiophen-3-yl)methyl)-1H-benzo[d]imidazol-5-amine | ClC1=CC2=C(SC=C2CN(C2=CC3=C(NC=N3)C=C2)CC=2C3=C(SC2)C=CC(=C3)Cl)C=C1 | C25H17Cl2N3S2
